US08389527B2
A solution of 6-chloro-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (60 mg, 0.129 mmol) and (trans)-cyclohexane-1,4-diamine (147 mg, 1.285 mmol) in NMP (2 mL) was heated in a microwave reactor at 90° C. for 40 min. The reaction mixture was diluted with methanol and purified by HPLC (Phenomenex Axia Luna 5 micron 30×100 mm) 20% B (Solvent B=90% MeOH-10% H2O-0.1% TFA) to 100% B in A (Solvent A=10% MeOH-90% H2O-0.1% TFA)] to afford 6-((trans)-4-aminocyclohexylamino)-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide.

reactant | 6-chloro-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.129 mmol, 60 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)F)N(CC2=CC=C(C=C2)OC)C2CC2 | C23H20ClFN6O2
reactant | (trans)-cyclohexane-1,4-diamine | 1.285 mmol, 147 mg | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | methanol | CO | CH4O
product | 6-((trans)-4-aminocyclohexylamino)-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)F)N(CC2=CC=C(C=C2)OC)C2CC2 | C29H33FN8O2
